US07094780B1
Synthesis of 1,3-Dibenzylpyrrolidine-3-carboxylic acid amide
A mixture of 1,3-dibenzylpyrrolidine-3-carboxylic acid (Example A28, 4.0 g, 13.5 mmol), 1,1′-carbonyldiimidazole (2.42 g, 14.9 mmol), and triethylamine (2.08 mL, 14.9 mmol) in tetrahydrofuran (100 mL) is heated at reflux for 1.5 hours. The solution is cooled, poured into NH4OH (300 mL), and stirred for 18 hours. The mixture is extracted with chloroform, the organic layer is washed with water, dried, and concentrated to afford 4.13 g of the title compound as an oil; MS El+: m/z 295 (MH+).

reactant | 1,3-dibenzylpyrrolidine-3-carboxylic acid | 13.5 mmol, 4.0 g | C(C1=CC=CC=C1)N1CC(CC1)(C(=O)O)CC1=CC=CC=C1 | C19H21NO2
reactant | 1,1′-carbonyldiimidazole | 14.9 mmol, 2.42 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | triethylamine | 14.9 mmol, 2.08 mL | C(C)N(CC)CC | C6H15N
reactant | NH4OH | 300 mL | [NH4+].[OH-]
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 1,3-Dibenzylpyrrolidine-3-carboxylic acid amide | 4.13 g | C(C1=CC=CC=C1)N1CC(CC1)(C(=O)N)CC1=CC=CC=C1 | C19H22N2O
